* ==========================================================================
* @part: INA240A1
* @family: opamps
* @source: TI
* @url: https://www.ti.com/lit/zip/SBOMB42
* @origin-file: ti/INA240/SBOMB42/ina240a1.lib
* @retrieved: 2026-09-24
* @licence: condition: "The model is provided solely on an "as is" basis."; notice: "(C) Copyright 2012 Texas Instruments Incorporated. All rights reserved."
* @added-by: garv.singh
* @pins: INA240A1: OUT INP INN REF1 REF2 VCC GND
* @notes: PWM-rejecting current-sense amp, gain 20
* @patched: 11 helper subckt/model name(s) suffixed with '__INA240A1' so this file can be included together with other files
* The complete origin file follows (modified, see @patched).
* ==========================================================================

* INA240A1
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: INA240A1
* Date: 03/09/17
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.2
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS662A - July 2016 - Revised October 2016
*
* Model Version: 2.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 2.0 : Update Vout swing to lower rail
*               Add overdrive recovery circuit
*
*****************************************************************************
* Notes: 
* The model reflects the following parameters:
* Common-mode input range, CMRR, VOS, IIB, Gain, BW, Vout versus Iout, 
* slew rate, noise, power supply range, IQ.
* The model does not track device behavior over temperature
*  
*****************************************************************************
*$
.SUBCKT INA240A1 OUT INP INN REF1 REF2 VCC GND
E_E2         N61051 0 GND 0 -1
E_E11         INP_BUF_OUT GND INP GND 1
X_U12         INPUT_TF INPUT_VCLAMP VCC GND EN GNDF TF__INA240A1
E_E12         INN_BUF_OUT GND N409527 GND 1
X_U31         INPUT_VIMON OUT VIMON GNDF AMETER__INA240A1 
R_R19         INPUT_OUTP N348841  475k TC=0,0 
X_U35         EN VICM__INA240A1 VCC GND GNDF CONTROL__INA240A1 
X_U18         INP GNDF VCC GND VICM__INA240A1 GNDF IIBP__INA240A1
R_R11         INPUT_ZOUT INPUT_VIMON  10 TC=0,0 
X_U5         VICM__INA240A1 INP INN GNDF VICM__INA240A1
E_E13         INP_BUF_OUT INP_CMRR VICM__INA240A1 GNDF 1
R_R16         GND INP  500k TC=0,0 
X_U13         INPUTP_GBW INPUTN_GBW INPUT_TF EN VCC GND GNDF GBW_SLEW__INA240A1
E_E14         INN_BUF_OUT INN_CMRR VICM__INA240A1 GNDF 1
*V_V8         INN N409527 -2.5uVdc
V_V8         INN N409527 -7.625uVdc
X_U20         VCC GND EN VIMON GNDF IQ__INA240A1
X_U33         VCC GND INP_PSRR_IN INP_PSRR_OUT GNDF PSRR__INA240A1 
X_U17         INN GNDF VCC GND VICM__INA240A1 GNDF IIBN__INA240A1
R_R4         INN_CMRR INPUTN_GBW  25k TC=0,0 
G_G1         GNDF N504417 VICM__INA240A1 GNDF 0.25u
*X_U34         VCC GND INPUT_VCLAMP INPUT_ZOUT VIMON GNDF VOUTvsIOUT_NROS
X_U34         VCC GND INPUT_VCLAMP INPUT_ZOUT VIMON NDUMMY GNDF VOUTvsIOUT_NROS_SHDN__INA240A1 
VDUMMY        NDUMMY GNDF 1V
E_E16         INP_CMRR INP_PSRR_IN N504417 GNDF 1
R_R18         OUT INPUTN_GBW  500k TC=0,0 
R_R12         REF2 N348841  50k TC=0,0 
R_R8         REF1 N348841  50k TC=0,0 
R_R3         INP_PSRR_OUT INPUT_OUTP  25k TC=0,0 
R_R20         N506257 GNDF  1 TC=0,0 
X_U32         INPUT_OUTP INPUTP_GBW VNSE__INA240A1
E_E3         GNDF 0 N61045 N61051 0.5
L_L1         N504417 N506257  400uH  
R_R17         INN GND  500k TC=0,0 
E_E1         N61045 0 VCC 0 1
.ENDS
*$
********
********
.SUBCKT VNSE__INA240A1 1 2 
.PARAM NLF = 26 
.PARAM FLW = 1p  
.PARAM NVR = 26
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
********
********
.SUBCKT TF__INA240A1  VI  VO  VCC VEE SHDN GNDF
.PARAM fz1 = 10G 
.PARAM fz2 = 10G 
.PARAM fz3 = 10G 
.PARAM fz4 = 10G 
.PARAM fz5 = 10G
*.PARAM fp1 = 45e6 
.PARAM fp1 = 10e6 
.PARAM fp2 = 10G 
.PARAM fp3 = 10G 
.PARAM fp4 = 10G
.PARAM Gm = 1M
.PARAM Ro = {1/Gm}
.PARAM PI = 3.141592
.PARAM gL = 1M
Gp1  GNDF Vp1 VI GNDF {Gm}
Rp1  Vp1 GNDF {Ro}
Cp1  Vp1 GNDF {1/(2*PI*Ro*fp1)} IC = 0
Gp2  GNDF Vp2 Vp1 GNDF {Gm}
Rp2  Vp2 GNDF {Ro}
Cp2  Vp2 GNDF {1/(2*PI*Ro*fp2)} IC = 0
Gp3  GNDF Vp3 Vp2 GNDF {Gm}
Rp3  Vp3 GNDF {Ro}
Cp3  Vp3 GNDF {1/(2*PI*Ro*fp3)} IC = 0
Gp4  GNDF VO Vp3 GNDF {Gm}
Rp4  VO GNDF {Ro}
Cp4  VO GNDF {1/(2*PI*Ro*fp4)} IC = 0
.ENDS
*$
********
********
.SUBCKT AMETER__INA240A1  VI  VO VIMON GNDF
.PARAM GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS
*$
********
********
.SUBCKT CONTROL__INA240A1 OUT_CNTRL IN VCC VEE GNDF
.PARAM VCCMAX = 6
.PARAM VCCMIN = 2.5
.PARAM VICMMAX = 80.01
.PARAM VICMMIN = -40.01
EN1 N1 0 VALUE = {SGN(VCCMAX - V(VCC,VEE)) - 1 + ABS(SGN(VCCMAX - V(VCC,VEE)))}
EN2 N2 0 VALUE = {SGN(V(VCC,VEE)-VCCMIN) - 1 + ABS(SGN(V(VCC,VEE)-VCCMIN))}
EVCCMAX NVCCMAX 0 VALUE = {0.5*(1 + V(N1))}
EVCCMIN NVCCMIN 0 VALUE = {0.5*(1 + V(N2))}
EN3 N3 0 VALUE = {SGN(VICMMAX - V(IN)) - 1 + ABS(SGN(VICMMAX - V(IN)))}
EN4 N4 0 VALUE = {SGN(V(IN)-VICMMIN) - 1 + ABS(SGN(V(IN)-VICMMIN))}
EVICMMAX NVICMMAX 0 VALUE = {0.5*(1 + V(N3))}
EVICMMIN NVICMMIN 0 VALUE = {0.5*(1 + V(N4))}
EOUT OUT_CNTRL GNDF VALUE = {V(NVCCMAX)*V(NVCCMIN)*V(NVICMMAX)*V(NVICMMIN)}
.ENDS
*$
********
********
.SUBCKT IIBP__INA240A1 OUT IN VCC VEE INP GNDF
.PARAM VCMBRK = 5
EVCCTEST NTEST 0 VALUE = {SGN(V(VCC,VEE)) - 1 + ABS(SGN(V(VCC,VEE)))}
E1ACT N1SGN 0 VALUE = {SGN(V(INP)-VCMBRK) - 1 + ABS(SGN(V(INP)-VCMBRK))}
GOUT OUT IN VALUE = {0.5*(1+V(N1SGN))*0.5*(1+V(NTEST))*65u}
.ENDS
*$
********
********
.SUBCKT VICM__INA240A1 OUT INP INN GNDF
EOUT OUT GNDF VALUE = {0.5*(V(INP,GNDF) + V(INN,GNDF))}
.ENDS
*$
********
********
.SUBCKT GBW_SLEW__INA240A1  VIP  VIM  VO  SHDN VCC VEE GNDF 
.PARAM Aol = 160  
.PARAM GBW = 8.2e6  
.PARAM SRP = 3e6  
.PARAM SRN = 3e6 
.PARAM IT = 0.001
.PARAM PI = 3.141592
.PARAM IP = {IT*MAX(1,SRP/SRN)}
.PARAM IN = {IT*MIN(-1,-SRN/SRP)}
.PARAM CC = {IT*MAX(1/SRP,1/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1 GNDF OUTG1 VALUE = {MAX(MIN(GC*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
RG1 OUTG1 GNDF {RC}
Cg1d OUTG1 GNDF {CC} IC=0
*
S1  OUTG1 N1 OUTG1 N1 SW1
E1 N1 0 VALUE = {V(VCC,0) - 0.1}
.MODEL SW1 VSWITCH RON=100 ROFF=1e9 VON=0.1 VOFF=0.0
*
S2  OUTG1 N2 OUTG1 N2 SW2
E2 N2 0 VALUE = {V(VEE,0) + 0.1}
.MODEL SW2 VSWITCH RON=100 ROFF=1e9 VON=-0.1 VOFF=0.0
*
EOUT VO GNDF OUTG1 GNDF 1
*
.ENDS
*$
********
********
.SUBCKT IQ__INA240A1 VCC VEE SHDN VIMON GNDF
.PARAM IQ_NOM = 0.0018
.PARAM IQ_SHDN = 0.1u
.PARAM Geq = 18.75u
GIQ VCC VEE VALUE = {IQ_NOM*V(SHDN,GNDF)}
GOUTP VCC GNDF VALUE = {IF(V(VIMON,GNDF) > 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
GOUTN GNDF VEE VALUE = {IF(V(VIMON,GNDF) <= 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
.ENDS
*$
********
********
.SUBCKT PSRR__INA240A1  VDD  VSS  VI  VO  GNDF 
.PARAM PSRR = 120 
.PARAM fpsrr = 300
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*fpsrr)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR} 
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P 
.ENDS
*$
********
********
.SUBCKT IIBN__INA240A1 OUT IN VCC VEE INN GNDF
.PARAM VCMBRK = 5
EVCCTEST NTEST 0 VALUE = {SGN(V(VCC,VEE)) - 1 + ABS(SGN(V(VCC,VEE)))}
E1ACT N1SGN 0 VALUE = {SGN(V(INN)-VCMBRK) - 1 + ABS(SGN(V(INN)-VCMBRK))}
GOUT OUT IN VALUE = {0.5*(1+V(N1SGN))*0.5*(1+V(NTEST))*65u}
.ENDS
*$
********
********
.SUBCKT VOUTvsIOUT_NROS_SHDN__INA240A1  VCC  VEE  VI  VO VIMON SHDN GNDF
.PARAM ISC_POS = 0.003
.PARAM ISC_NEG = -0.0055
.PARAM IMAXLIN_POS = 0.0024
.PARAM IMAXLIN_NEG = -0.0045
.PARAM VOUTMAXLIN = 4.8
.PARAM VOUTMINLIN = 0.4
.PARAM VHR_VCC = -0.05
.PARAM VHR_VEE = 0.001
.PARAM VCC_DATASHEET = 5
.PARAM VEE_DATASHEET = 0
.PARAM VMID_DATASHEET = {(VCC_DATASHEET + VEE_DATASHEET)/2}
.PARAM VHR_MAX_LINEAR = {VOUTMAXLIN - VCC_DATASHEET}
.PARAM VHR_MIN_LINEAR = {VOUTMINLIN  - VEE_DATASHEET}
ER1 NR1 GNDF VALUE = {(VOUTMAXLIN - (VCC_DATASHEET + VHR_VCC))/IMAXLIN_POS}
ER2 NR2 GNDF VALUE = {(VOUTMINLIN - (VEE_DATASHEET + VHR_VEE))/IMAXLIN_NEG}
EVOUT1pos NVOUT1_MAX GNDF VALUE = {(V(VCC,GNDF) + VHR_VCC) + V(NR1,GNDF)*V(VIMON,GNDF)}
EVOUT1neg NVOUT1_MIN GNDF VALUE = {(V(VEE,GNDF) + VHR_VEE) + V(NR2,GNDF)*V(VIMON,GNDF)}
********************************************
* 
EM1 NM1 GNDF VALUE = {(VOUTMAXLIN - VMID_DATASHEET)/(IMAXLIN_POS - ISC_POS)}
EM2 NM2 GNDF VALUE = {(VOUTMINLIN - VMID_DATASHEET)/(IMAXLIN_NEG - ISC_NEG)}
EVMID NVMID GNDF VALUE = {(V(VCC,GNDF) + V(VEE,GNDF))/2}
E1 N1 GNDF VALUE = {V(VCC,GNDF) + VHR_MAX_LINEAR}
E2 N2 GNDF VALUE = {V(VEE,GNDF) + VHR_MIN_LINEAR} 
EV1 NV1 GNDF VALUE = {V(NVMID,GNDF) + (V(N1,GNDF) - V(NVMID,GNDF))/(1 - IMAXLIN_POS/ISC_POS)}
EV2 NV2 GNDF VALUE = {V(NVMID,GNDF) + (V(N2,GNDF) - V(NVMID,GNDF))/(1 - IMAXLIN_NEG/ISC_NEG)}
EVOUT2pos NVOUT2_MAX GNDF VALUE = {V(NV1,GNDF) + V(VIMON,GNDF)*V(NM1,GNDF)}
EVOUT2neg NVOUT2_MIN GNDF VALUE = {V(NV2,GNDF) + V(VIMON,GNDF)*V(NM2,GNDF)}
EHRPOS HRPOS GNDF VALUE = {MIN(V(NVOUT1_MAX,GNDF),V(NVOUT2_MAX,GNDF))}
EHRNEG HRNEG GNDF VALUE = {MAX(V(NVOUT1_MIN,GNDF),V(NVOUT2_MIN,GNDF))}
ECLAMP  VO GNDF VALUE = {V(SHDN,GNDF)*MAX(MIN(V(VI,GNDF), V(HRPOS,GNDF)), V(HRNEG,GNDF))}
**
*
.ENDS
*
********
********
